US04767766
Step A: Preparation of 2-(3-Methoxybenzylthio)-nicotinic acid
A suspension of 4.65 g (0.03 mole) of 2-mercaptonicotinic acid in 100 ml of methanol was cooled in ice as 3.24 g (0.06 mole) of sodium methoxide was added. The resulting solution was left at ice - temperature as 4.68 g (0.03 mole) of 3-methoxybenzyl chloride was added over 5 minutes. The reaction mixture was stirred for 14 hours and the reaction set solid. The addition of 50 ml of water caused solution and an excess of acetic acid precipitated 7.55 g (92% of theory) of 2-(3-methoxybenzylthio)nicotinic acid. Recrystallization was effected from ethyl acetate; m.p. 156-157° C.

reactant | 2-mercaptonicotinic acid | 0.03 mole, 4.65 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | sodium methoxide | 0.06 mole, 3.24 g | C[O-].[Na+]
reactant | 3-methoxybenzyl chloride | 0.03 mole, 4.68 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | water | 50 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-(3-Methoxybenzylthio)-nicotinic acid | COC=1C=C(CSC2=C(C(=O)O)C=CC=N2)C=CC1 | C14H13NO3S
